US08426447B2
A vial was charged with (S)-2′-amino-3-(3,6-dihydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate (0.050 g, 0.103 mmol), 5-chloro-2-fluorophenylboronic acid (0.054 g, 0.310 mmol), and Pd(PPh3)4 (5.97 mg, 5.17 μmol). The vial was purged with Ar (g). Then, DMF (0.517 mL) and potassium carbonate (0.259 mL, 0.517 mmol) (as a 2.0 M aq. solution) were added in sequence. The vial was sealed and stirred at 70° C. for one hour. The reaction was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate, and the combined organic layers were dried with sodium sulfate, filtered, and concentrated. The material was purified via column chromatography (RediSep 40 g, gradient elution 0-7% MeOH in DCM) to afford (S)-7-(5-chloro-2-fluorophenyl)-3-(3,6-dihydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a white solid. Found MS: MH+=464.

reactant | (S)-2′-amino-3-(3,6-dihydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazole]-7-yl trifluoromethanesulfonate | 0.103 mmol, 0.050 g | FC(S(=O)(=O)OC=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C=1CCOCC1)(F)F | C20H16F3N3O6S
reactant | 5-chloro-2-fluorophenylboronic acid | 0.310 mmol, 0.054 g | ClC=1C=CC(=C(C1)B(O)O)F | C6H5BClFO2
reactant | DMF | 0.517 mL | CN(C)C=O | C3H7NO
reactant | potassium carbonate | 0.517 mmol, 0.259 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | 5.17 μmol, 5.97 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-7-(5-chloro-2-fluorophenyl)-3-(3,6-dihydro-2H-pyran-4-yl)-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | ClC=1C=CC(=C(C1)C=1C=C2C(=CC1)OC1=NC=C(C=C1[C@@]21N=C(OC1)N)C=1CCOCC1)F | C25H19ClFN3O3
